US07354692B2
SYNTHESIS OF 1,4-DIETHOXYANTHRAQUINONE (1,4-DEAQ)
A mixture of quinizarin (20.0 g, 83.5 mmol), potassium carbonate (76 g, 550 mmol) and ethyl sulfate (38.6 g, 250 mmol) was refluxed in methyl ethyl ketone (MEK, 950 mL) for 24 hrs. The reaction was filtered hot through Celite using additional hot MEK. The solution was evaporated on a rotary evaporator until crystallization began, then the reaction was allowed to sit overnight. After cooling in an ice bath, the crystals were filtered, rinsed with Et2O, sucked dry, then dried overnight in a vacuum oven at 70° C. The yield was 14.0 g (57%) of yellow/orange crystals.

reactant | quinizarin | 83.5 mmol, 20.0 g | C=1C=CC2=C(C1)C(=O)C3=C(C=CC(=C3C2=O)O)O | C14H8O4
reactant | potassium carbonate | 550 mmol, 76 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl sulfate | 250 mmol, 38.6 g | S(=O)(=O)(OCC)[O-]
reactant | methyl ethyl ketone | 950 mL | C(C)C(=O)C | C4H8O
product | 1,4-DIETHOXYANTHRAQUINONE | C(C)OC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)OCC | C18H16O4
